US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1,3-thiazol-2-yl]azetidine (867.2 mg, 1.44 mmol) (obtained as described in Reference Example 62(2)) in anhydrous tetrahydrofuran (45 ml) were added acetic acid (0.1 ml, 1.75 mmol) and 1.0 M tetra-n-butylammonium fluoride in tetrahydrofuran (1.72 ml, 1.72 mmol) in an ice bath and the mixture was stirred in an ice bath for 4.5 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate methanol (15:1) as the eluant to afford 3-hydroxy-1-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1,3-thiazol-2-yl]azetidine (457 mg, yield 87%) as a yellow solid.

reactant | 3-t-butyldiphenylsilyloxy-1-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1,3-thiazol-2-yl]azetidine | 1.44 mmol, 867.2 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C31H34N4O5SSi
reactant | acetic acid | 1.75 mmol, 0.1 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.72 mmol, 1.72 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-[4-(p-nitrobenzyloxycarbonylaminomethyl)-1,3-thiazol-2-yl]azetidine | 457 mg, yield 87% | OC1CN(C1)C=1SC=C(N1)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N4O5S
